US07728155B2
To a solution of (±)-1-(3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-2-yl)methanamine (0.568 g, 3.00 mmol) in tetrahydrofuran (30 mL) cooled to 0° C. was added diisopropylethylamine (0.427 g, 3.30 mmol) followed by benzyl chloroformate (0.538 g, 3.15 mmol) and the reaction mixture was allowed to stir at 0° C. for 1 h. The reaction mixture was quenched by the addition of saturated aqueous ammonium chloride (100 mL) and extracted with diethyl ether (2×150 mL). The combined organic extracts were washed with saturated aqueous sodium chloride (100 mL), dried (magnesium sulfate), and the solvent was removed in vacuo to provide a crude oil. Purification by flash column chromatography (silica, ethyl acetate:hexanes 1:9) afforded 0.663 g (68%) of (±)-benzyl 3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-2-ylmethylcarbamate as a white solid. Rf=0.30 (silica, ethyl acetate:hexanes 1:9); mp 99-101° C.; Anal. calcd. for C20H21NO3: C, 74.28; H, 6.55; N, 4.33. Found: C, 73.82; H, 6.53; N, 4.25. Chiral HPLC separation of (±)-benzyl 3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-2-ylmethylcarbamate (Chiralcel OJ, isopropanol:hexane 7:3) provided two fractions. Fraction 1 (Rt=13.237 min, Chiralcel OJ, isopropanol:hexanes 3:7); Fraction 2 (Rt=16.526 min, Chiralcel OJ, isopropanol:hexanes 3:7).

reactant | (±)-1-(3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-2-yl)methanamine | 3.00 mmol, 0.568 g | O1C2=C(CC1CN)C=CC=1CCCC12 | C12H15NO
reactant | diisopropylethylamine | 3.30 mmol, 0.427 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 3.15 mmol, 0.538 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | (±)-benzyl 3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-2-ylmethylcarbamate | 0.663 g, 68% | O1C2=C(CC1CNC(OCC1=CC=CC=C1)=O)C=CC=1CCCC12 | C20H21NO3
